US08871756B2
[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl](piperidin-4-yl)methanone
To a solution of tert-butyl 4-{[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]carbonyl}piperidine-1-carboxylate (100 mg, 0.18 mmol) in dichloromethane (1 mL) was added trifluoroacetic acid (1 mL). The resulting mixture was stirred at room temperature until the reaction was complete monitoring by LC/MS and then concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (eluting with 1-10% methanol in dichloromethane) to afford 60 mg of the desired product. MS (ESI+) [(M+H)+] 450, 1H NMR (400 MHz, CD3OD) δ ppm 8.01 (dd, J=7.83, 1.26 Hz, 1 H), 7.90 (d, J=7.07 Hz, 1 H), 7.68-7.56 (m, 2 H), 7.51-7.38 (m, 3 H), 7.34 (s, 1 H), 5.26 (brs, 2 H), 4.5 (brs, 2 H), 3.70-3.58 (m, 2 H), 3.37 (s, 2 H), 3.35-3.32 (m, 1 H), 3.14-3.03 (m, 2 H), 2.71 (td, J=12.25, 2.78 Hz, 2 H), 2.40 (s, 3 H), 1.79 (m, 2 H), 1.69-1.51 (m, 2 H).

reactant | tert-butyl 4-{[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]carbonyl}piperidine-1-carboxylate | 0.18 mmol, 100 mg | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)C(=O)C2CCN(CC2)C(=O)OC(C)(C)C)C)=O | C30H35N3O5S
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | [2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl](piperidin-4-yl)methanone | 60 mg | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)C(=O)C2CCNCC2)C)=O | C25H27N3O3S
